US06716998B2
Treatment of {(2R)-7-[(4-methylphenyl)sulfonyl]-2,7-dihydropyrano[2,3-e]indol-2-yl}methyl 4-methylbenzenesulfonate with palladium on carbon (10 wt. %) in ethanol following the procedure described for Example 1c gives {(2R)-7-[(4-methylphenyl)sulfonyl]-2,3,4,7-tetrahydropyrano[2,3-e]indol-2-yl}methyl 4-methylbenzenesulfonate.

reactant | {(2R)-7-[(4-methylphenyl)sulfonyl]-2,7-dihydropyrano[2,3-e]indol-2-yl}methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1C=CC=2C(=C3C=CN(C3=CC2)S(=O)(=O)C2=CC=C(C=C2)C)O1 | C26H23NO6S2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | {(2R)-7-[(4-methylphenyl)sulfonyl]-2,3,4,7-tetrahydropyrano[2,3-e]indol-2-yl}methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1CCC=2C(=C3C=CN(C3=CC2)S(=O)(=O)C2=CC=C(C=C2)C)O1 | C26H25NO6S2
